US09145407B2
2-Pyridazin-4-yl-4-(trifluoromethoxy)phenol
2-Iodo-4-(trifluoromethoxy)phenol (Preparation 29, 3.30 g, 9.99 mmol) and 4-(tributylstannyl)pyridazine (4.06 g, 11.0 mmol) were taken up in dimethylformamide (40 mL). Cesium fluoride (3.03 g, 20.0 mmol) was added followed by tetrakis(triphenylphosphine)palladium(0) (1.2 g, 1.0 mmol) and copper(I) iodide (380 mg, 2.0 mmol). The reaction mixture was evacuated and purged with argon (×5) then heated at 45° C. After 2 hours the reaction mixture was cooled and diluted with ethyl acetate and water. The mixture was filtered through a pad of diatomaceous earth and washed with ethyl acetate. The aqueous phase was separated and back extracted with ethyl acetate. The combined organic phase was concentrated in vacuo. The residue was purified by silica gel column chromatography (0% to 10% methanol in dichloromethane gradient elution) then triturated with ethyl ether. The solid was collected by filtration and dried in vacuo to afford the title compound product as a yellow solid (1.18 g, 46%).

reactant | 2-Iodo-4-(trifluoromethoxy)phenol | 9.99 mmol, 3.30 g | IC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4F3IO2
reactant | 4-(tributylstannyl)pyridazine | 11.0 mmol, 4.06 g | C(CCC)[Sn](C1=CN=NC=C1)(CCCC)CCCC
reactant | Cesium fluoride | 20.0 mmol, 3.03 g | [F-].[Cs+]
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.0 mmol, 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 2.0 mmol, 380 mg | [Cu]I
product | 2-Pyridazin-4-yl-4-(trifluoromethoxy)phenol | N1=NC=C(C=C1)C1=C(C=CC(=C1)OC(F)(F)F)O | C11H7F3N2O2
